US05216015
Step 8: Preparation of 3α,7α-diacetoxy-12α-(2,2-dimethyl)butyryloxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane
A mixture of 3α,7α-diacetoxy-12α-hydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane (7.6 g), 4-pyrrolidinopyridine (0.184 g) and 2,2-dimethylbutyryl chloride (2.0 g) in pyridine (40 ml) is heated at 110° C. for about 1 hour, additional 2,2-dimethylbutyryl chloride (2.0 g) is added and heating is continued for about 16 hours. The mixture is cooled, diluted with 20% ether in hexane and the organic solution washed with 1.0M hydrochloric acid, saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is purified by flash chromatography in 30% ether in hexane to give the desired product.

reactant | 3α,7α-diacetoxy-12α-hydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane | 7.6 g | C(C)(=O)O[C@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C)OC(C)=O | C40H52O5
reactant | 4-pyrrolidinopyridine | 0.184 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | 2,2-dimethylbutyryl chloride | 2.0 g | CC(C(=O)Cl)(CC)C | C6H11ClO
reactant | 2,2-dimethylbutyryl chloride | 2.0 g | CC(C(=O)Cl)(CC)C | C6H11ClO
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 3α,7α-diacetoxy-12α-(2,2-dimethyl)butyryloxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane | C(C)(=O)O[C@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)OC(C(CC)(C)C)=O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C)OC(C)=O | C46H62O6
